US07851473B2
4-(4-Phenyl-1,3-thiazol-2-yl)-N-pyrimidin-5-ylpiperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl pyrimidin-5-ylcarbamate (263 mg, 0.972 mmol), 1-(4-phenyl-1,3-thiazol-2-yl)piperazine (238 mg, 0.972 mmol), diisopropylethylamine (0.169 ml, 0.972 mmol) and dimethylsulfoxide (3 ml) was stirred at 70° C. for 12 hours, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was recrystallized from ethyl acetate to obtain the desired product (97.4 mg, 27.4%) as a solid.

reactant | 2,2,2-trichloroethyl pyrimidin-5-ylcarbamate | 0.972 mmol, 263 mg | N1=CN=CC(=C1)NC(OCC(Cl)(Cl)Cl)=O | C7H6Cl3N3O2
reactant | 1-(4-phenyl-1,3-thiazol-2-yl)piperazine | 0.972 mmol, 238 mg | C1(=CC=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H15N3S
reactant | diisopropylethylamine | 0.972 mmol, 0.169 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(4-Phenyl-1,3-thiazol-2-yl)-N-pyrimidin-5-ylpiperazine-1-carboxamide | 97.4 mg, 27.4% | C1(=CC=CC=C1)C=1N=C(SC1)N1CCN(CC1)C(=O)NC=1C=NC=NC1 | C18H18N6OS
